data/polar.json
{"reaction_name": "General nucleophilic addition to a neutral imine", "rsmi": "[c:5]1([S:24](=[O:31])(=[O:32])[CH-:38][c:11]2[cH:9][cH:27][cH:33][cH:28][cH:10]2)[cH:12][cH:20][cH:6][cH:21][cH:13]1.[cH:1]1[cH:14][cH:18][cH:17][cH:4][c:29]1[P:8](=[O:22])([c:30]1[cH:2][cH:15][cH:19][cH:16][cH:3]1)[N:34]=[CH:7][c:23]1[cH:36][cH:25][cH:35][cH:26][cH:37]1>>[cH:1]1[cH:14][cH:18][cH:17][cH:4][c:29]1[P:8]([O-:22])([c:30]1[cH:2][cH:15][cH:19][cH:16][cH:3]1)=[N:34][CH:7]([c:23]1[cH:36][cH:25][cH:35][cH:26][cH:37]1)[CH:38]([c:11]1[cH:9][cH:27][cH:33][cH:28][cH:10]1)[S:24]([c:5]1[cH:12][cH:20][cH:6][cH:21][cH:13]1)(=[O:31])=[O:32]", "epd": [["LP-/Sigma+", [38], [38, 7]], ["Pi-/Pi+", [7, 34], [34, 8]], ["Pi-/LP+", [8, 22], [22]]]}
{"reaction_name": "Nucleophilic addition to terminal diazo nitrogen", "rsmi": "[N+:1]([C-:11]([C:2]([O:13][CH3:8])=[O:15])[C:3]([O:14][CH3:9])=[O:16])#[N:17].[cH:4]1[cH:6][c:7]2[c:20]([cH:12][cH:21]1)[CH:19]=[CH:5][CH:18]2[Li:10]>>[Li+:10].[N:1]([C-:11]([C:2]([O:13][CH3:8])=[O:15])[C:3]([O:14][CH3:9])=[O:16])=[N:17][CH:18]1[CH:5]=[CH:19][c:20]2[c:7]1[cH:6][cH:4][cH:21][cH:12]2", "epd": [["Sigma-/Sigma+", [18, 10], [18, 17]], ["Pi-/LP+", [17, 1], [1]]]}
{"reaction_name": "General nucleophilic addition to an iminium C=N+ center", "rsmi": "[CH:2]([C:10](=[O:12])[c:15]1[cH:3][cH:21][c:14]([N:20]([CH3:16])[CH3:17])[cH:22][cH:4]1)=[S:23]([CH3:7])[CH3:8].[cH:1]1[cH:5][cH:18][c:13]([N+:9](=[CH2:11])[CH3:24])[cH:19][cH:6]1>>[cH:1]1[cH:5][cH:18][c:13]([N:9]([CH2:11][CH:2]([C:10](=[O:12])[c:15]2[cH:3][cH:21][c:14]([N:20]([CH3:16])[CH3:17])[cH:22][cH:4]2)[S+:23]([CH3:7])[CH3:8])[CH3:24])[cH:19][cH:6]1", "epd": [["Pi-/Sigma+", [2, 23], [2, 11]], ["Pi-/LP+", [11, 9], [9]]]}
{"reaction_name": "Conjugate addition to an electron-poor quinone", "rsmi": "[C:9]1([Cl:33])=[C:10]([Cl:34])[C:12](=[O:19])[C:27]([C:36]#[N:38])=[C:28]([C:37]#[N:39])[C:11]1=[O:18].[N:1]1([c:23]2[cH:29][cH:2][n:35][cH:3][cH:30]2)[CH2:17][CH2:32][CH2:4][CH:20]1[C:26]([c:24]1[cH:5][cH:13][cH:21][cH:14][cH:6]1)([c:25]1[cH:7][cH:15][cH:22][cH:16][cH:8]1)[F:31]>>[N+:1]1(=[c:23]2[cH:29][cH:2][n:35]([C:27]3([C:36]#[N:38])[C:12](=[O:19])[C:10]([Cl:34])=[C:9]([Cl:33])[C:11]([O-:18])=[C:28]3[C:37]#[N:39])[cH:3][cH:30]2)[CH2:17][CH2:32][CH2:4][CH:20]1[C:26]([c:24]1[cH:5][cH:13][cH:21][cH:14][cH:6]1)([c:25]1[cH:7][cH:15][cH:22][cH:16][cH:8]1)[F:31]", "epd": [["LP-/Pi+", [1], [1, 23]], ["Pi-/Sigma+", [3, 35], [27, 35]], ["Pi-/LP+", [11, 18], [18]], ["Pi-/Pi+", [27, 28], [11, 28]], ["Pi-/Pi+", [23, 30], [3, 30]]]}
{"reaction_name": "Conjugate addition to an iminium-activated alkene", "rsmi": "[C:2]([CH:9]1[N+:16](=[CH:5][CH:30]=[CH:10][c:24]2[cH:6][cH:17][cH:4][cH:18][cH:7]2)[CH:14]([CH2:31][c:28]2[cH:32][cH:12][cH:19][cH:13][cH:33]2)[C:22](=[O:8])[N:29]1[CH3:21])([CH3:25])([CH3:26])[CH3:27].[N:1]1=[C:3]([CH3:11])[O:23][CH2:15][CH2:20]1>>[N:1]1([CH:10]([c:24]2[cH:6][cH:17][cH:4][cH:18][cH:7]2)[CH:30]=[CH:5][N:16]2[CH:9]([C:2]([CH3:25])([CH3:26])[CH3:27])[N:29]([CH3:21])[C:22](=[O:8])[CH:14]2[CH2:31][c:28]2[cH:32][cH:12][cH:19][cH:13][cH:33]2)[C:3]([CH3:11])=[O+:23][CH2:15][CH2:20]1", "epd": [["LP-/Pi+", [23], [3, 23]], ["Pi-/Sigma+", [1, 3], [1, 10]], ["Pi-/Pi+", [10, 30], [30, 5]], ["Pi-/LP+", [5, 16], [16]]]}
{"reaction_name": "Oxa-Michael addition", "rsmi": "[O-:3][N+:24]([O-:4])=[C:17]1[CH:16]=[CH:30][CH:15]=[CH:18][C:29]1=[O:14].[S:1]([c:6]1[cH:20][cH:10][cH:8][cH:13][cH:23]1)([C:19]([S:2]([c:7]1[cH:21][cH:11][cH:9][cH:12][cH:22]1)(=[O:25])=[O:26])=[CH2:5])(=[O:27])=[O:28]>>[S:1]([c:6]1[cH:20][cH:10][cH:8][cH:13][cH:23]1)([C-:19]([S:2]([c:7]1[cH:21][cH:11][cH:9][cH:12][cH:22]1)(=[O:25])=[O:26])[CH2:5][O:14][c:29]1[c:17]([N+:24](=[O:3])[O-:4])[cH:16][cH:30][cH:15][cH:18]1)(=[O:27])=[O:28]", "epd": [["LP-/Pi+", [3], [24, 3]], ["Pi-/Pi+", [17, 24], [29, 17]], ["Pi-/Sigma+", [14, 29], [14, 5]], ["Pi-/LP+", [5, 19], [19]]]}
{"reaction_name": "Lactam hydrolysis", "rsmi": "[O-:5][H:7].[O:1]=[C:3]1[CH2:4][CH2:2][NH:6]1>>[O:1]=[C:3]([CH2:4][CH2:2][NH:6][H:7])[O-:5]", "epd": [["LP-/Sigma+", [5], [3, 5]], ["Pi-/LP+", [1, 3], [1]], ["LP-/Pi+", [1], [1, 3]], ["Sigma-/LP+", [3, 6], [6]], ["LP-/Sigma+", [6], [6, 7]], ["Sigma-/LP+", [5, 7], [5]]]}
{"reaction_name": "NCS chlorination", "rsmi": "[CH2:1]1[CH2:2][C:12](=[O:7])[N:9]([Cl:5])[C:11]1=[O:6].[CH2:3]=[CH:10][CH2:4][H:8]>>[CH2:1]1[CH2:2][C:12](=[O:7])[N:9]([H:8])[C:11]1=[O:6].[CH2:3]=[CH:10][CH2:4][Cl:5]", "epd": [["LP-/Sigma+", [9], [8, 9]], ["Sigma-/LP+", [4, 8], [4]], ["LP-/Sigma+", [4], [4, 5]], ["Sigma-/LP+", [5, 9], [9]]]}
